US07034039B2
3-(Aminomethyl)-2-isobutyl-6-(methylsulfonyl)-4-phenyl-1(2H)-isoquinolinone hydrochloride
A mixture of tert-butyl[2-isobutyl-6-(methylsulfonyl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.16 g, 0.33 mmol) and a solution (5 mL) of 4N hydrogen chloride in ethyl acetate was stirred for 1 h and concentrated under reduced pressure. The obtained residue was precipitated from ethyl acetate-diisopropyl ether (1:10) to give, the title compound (0.12 g, 87%) as a colorless powder.

reactant | tert-butyl[2-isobutyl-6-(methylsulfonyl)-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.33 mmol, 0.16 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)S(=O)(=O)C)=O)CC(C)C)=O | C26H32N2O5S
reactant | hydrogen chloride | 4N, 5 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(Aminomethyl)-2-isobutyl-6-(methylsulfonyl)-4-phenyl-1(2H)-isoquinolinone hydrochloride | 0.12 g, 87% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)S(=O)(=O)C)=O)CC(C)C | InChI=1S/C21H24N2O3S.ClH/c1-14(2)13-23-19(12-22)20(15-7-5-4-6-8-15)18-11-16(27(3,25)26)9-10-17(18)21(23)24;/h4-11,14H,12-13,22H2,1-3H3;1H
